### PR TITLE
[Merged by Bors] - feat: `(if P then 1 else 0) • a`

### PR DESCRIPTION
**Pull request by YaelDillies**
Two simple lemmas, `smul_ite_zero`, and `ite_smul_zero`.
Also delete `Finset.sum_univ_ite` since it is now provable by `simp` thanks to these.

Rename and turn around the following to match the direction that `simp` goes in:
* `ite_mul_zero_left` → `ite_zero_mul`
* `ite_mul_zero_right` → `mul_ite_zero`
* `ite_and_mul_zero` → `ite_zero_mul_ite_zero`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 1]
```diff
@@ -733,6 +733,10 @@ theorem smul_zero (a : M) : a • (0 : A) = 0 :=
   SMulZeroClass.smul_zero _
 #align smul_zero smul_zero
 
+@[simp]
+lemma smul_boole (p : Prop) [Decidable p] (a : M) (b : A) :
+    (a • if p then b else 0) = if p then a • b else 0 := by rw [smul_ite, smul_zero]
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:738]: Shouldn't we have `b = 1` for this to be "boole"?

File: Mathlib/LinearAlgebra/FinsuppVectorSpace.lean [hunk 2]
```diff
@@ -180,12 +180,6 @@ theorem _root_.Finset.sum_single_ite (a : R) (i : n) :
   simp [hx']
 #align finset.sum_single_ite Finset.sum_single_ite
 
--- Porting note: LHS of equivFun_symm_stdBasis simplifies to this
-@[simp]
-theorem _root_.Finset.sum_univ_ite (b : n → M) (i : n) :
-    (Finset.sum Finset.univ fun (x : n) => (if i = x then (1:R) else 0) • b x) = b i := by
-  simp only [ite_smul, zero_smul, one_smul, Finset.sum_ite_eq, Finset.mem_univ, ite_true]
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/FinsuppVectorSpace.lean:187]: Are you deleting this lemma on purpose?

File: Mathlib/GroupTheory/GroupAction/Defs.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/GroupTheory/GroupAction/Defs.lean]: Yeah sorry, I got confused because we can't actually state `smul_boole` (`a • 1` doesn't simplify to anything).

File: Mathlib/Algebra/SMulWithZero.lean [hunk 3]
```diff
@@ -175,7 +175,13 @@ protected lemma MulActionWithZero.nontrivial
 #align mul_action_with_zero.nontrivial MulActionWithZero.nontrivial
 
 variable {R M}
-variable [MulActionWithZero R M] [Zero M'] [SMul R M']
+variable [MulActionWithZero R M] [Zero M'] [SMul R M'] (p : Prop) [Decidable p]
```
Comment (eric-wieser) [inline Mathlib/Algebra/SMulWithZero.lean:178]: nit: should `P` be upper case?

Comment (YaelDillies) [reply Mathlib/Algebra/SMulWithZero.lean:178]: Depends which file you ask! I would say no here just because `R` is a close letter used for an algebraic structure.

File: Mathlib/Algebra/SMulWithZero.lean [hunk 4]
```diff
@@ -175,7 +175,13 @@ protected lemma MulActionWithZero.nontrivial
...
+
+@[simp]
+lemma ite_zero_smul (a : R) (b : M) : (if p then a else 0 : R) • b = if p then a • b else 0 := by
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Algebra/SMulWithZero.lean:181]: Arguably the lack of `simp` on `ite_smul` is a confluence issue, but I guess that's probably out of scope here.

**Comment by YaelDillies** [comment]
bors merge
